US06867198B2
3-(6,6-dimethyl-8-fluoro-5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-4-(6-methoxy-1H-indol-3-yl)pyrrole-2,5-dione
Beginning with (6-methoxyindol-3-yl)acetamide and (6,6-dimethyl-8-fluoro-5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)oxoacetic acid methyl ester, the title compound was prepared essentially as described in Example 1.

reactant | (6-methoxyindol-3-yl)acetamide | COC1=CC=C2C(=CNC2=C1)CC(=O)N | C11H12N2O2
reactant | (6,6-dimethyl-8-fluoro-5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)oxoacetic acid methyl ester | COC(C(=O)C1=CN2CCC(C3=CC(=CC1=C23)F)(C)C)=O | C16H16FNO3
product | 3-(6,6-dimethyl-8-fluoro-5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-4-(6-methoxy-1H-indol-3-yl)pyrrole-2,5-dione | CC1(CCN2C3=C(C=C(C=C13)F)C(=C2)C=2C(NC(C2C2=CNC1=CC(=CC=C21)OC)=O)=O)C | C26H22FN3O3
